US08476261B2
49D) Preparation of 2-(1-aminocyclobutyl)propanol
10% Pd—C (700 mg) was added to a solution of 2-[1-(benzylamino)cyclobutyl]propanol (6.81 g, 31.1 mmol) in EtOH (150 mL) and the mixture was stirred under H2 gas 5 kgf/cm2 at room temperature for 6 hours. The mixture was filtered, and the filtrate was concentrated in vacuo. Distillation of the residue gave the title compound as a colorless oil (2.96 g, 74%). 1H-NMR (400 MHz, CDCl3) δ 1.03 (3H, d, J=7.3 Hz), 1.63-1.74 (3H, m), 1.78-1.94 (2H, m), 2.10-2.28 (2H, m), 3.50 (1H, dd, J=11.0 and 4.3 Hz), 3.91 (1H, dd, J=11.0 and 3.1 Hz).

reactant | 2-[1-(benzylamino)cyclobutyl]propanol | 31.1 mmol, 6.81 g | C(C1=CC=CC=C1)NC1(CCC1)C(CO)C | C14H21NO
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd—C | 700 mg | [Pd] | Pd
product | 2-(1-aminocyclobutyl)propanol | 2.96 g, 74% | NC1(CCC1)C(CO)C | C7H15NO
